US07601844B2
N-(1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)(phenyl)methanesulfonamide
A reaction tube was charged with benzylsulfonyl chloride (14 mg), DIEA (50 μL) and 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride (20 mg) in DCM (0.3 mL). The reaction mixture was shaken overnight at rt. At the conclusion of this period, the resulting solution was diluted with MeOH and purified by preparative LC-MS to provide Example 200. MS found: (M+H)+=450.

reactant | benzylsulfonyl chloride | 14 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | DIEA | 50 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-(4-(4-chlorophenyl)piperidin-1-yl)-3-methylbutan-1-one hydrochloride | 20 mg | Cl.NC(C(=O)N1CCC(CC1)C1=CC=C(C=C1)Cl)C(C)C
solvent | DCM | 0.3 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(1-(4-(4-Chlorophenyl)piperidin-1-yl)-3-methyl-1-oxobutan-2-yl)(phenyl)methanesulfonamide | ClC1=CC=C(C=C1)C1CCN(CC1)C(C(C(C)C)NS(=O)(=O)CC1=CC=CC=C1)=O | C23H29ClN2O3S
